US07259175B2
3-(2-Methyl-4-{2-[5-methyl-2-(6-phenyl-pyridin-3-yl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid
To a solution of 3-(2-Methyl-4-{2-[5-methyl-2-(6-phenyl-pyridin-3-yl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid methyl ester (40 mg) in ethanol (1 mL) is added NaOH (5 N, 1.0 mL), stirred for 2 hr at 50° C., cooled to room temperature, concentrated. The residue is treated with ether and acidified by 5 N HCl, extracted with ether, concentrated. Reversed phase HPLC (water/acetonitrile) gave the title compound (22 mg). MS (ES): 443.3 (M++1).

reactant | 3-(2-Methyl-4-{2-[5-methyl-2-(6-phenyl-pyridin-3-yl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid methyl ester | 40 mg | COC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C=1C=NC(=CC1)C1=CC=CC=C1)C)=O | C28H28N2O4
reactant | NaOH | 5 N, 1.0 mL | [OH-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-(2-Methyl-4-{2-[5-methyl-2-(6-phenyl-pyridin-3-yl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid | 22 mg | CC1=C(C=CC(=C1)OCCC=1N=C(OC1C)C=1C=NC(=CC1)C1=CC=CC=C1)CCC(=O)O | C27H26N2O4
